US09315490B2
(1-(5-(Benzo[d][1,3]dioxol-5-yl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)(morpholino)methanone
Prepared from (1-(5-bromopyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)(morpholino)-methanone (0.3 g, 0.67 mmol) and benzo[1,3]dioxole-5-boronic acid (0.22 g, 1.33 mmol) analogously to synthesis example 261. White solid. Yield: 0.145 g (44% of theory)

reactant | (1-(5-bromopyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)(morpholino)-methanone | 0.67 mmol, 0.3 g | BrC=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1CCOCC1)S(=O)C | C18H17BrN4O3S
reactant | benzo[1,3]dioxole-5-boronic acid | 1.33 mmol, 0.22 g | O1COC2=C1C=CC(=C2)B(O)O | C7H7BO4
product | (1-(5-(Benzo[d][1,3]dioxol-5-yl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)(morpholino)methanone | O1COC2=C1C=CC(=C2)C=2C=NC(=NC2)N2C=C(C1=CC=C(C=C21)C(=O)N2CCOCC2)S(=O)C | C25H22N4O5S
